US06492383B1
[2-(2-Ethoxy-thiazol-5-yl)-thieno[3,2-b]pyridin-7-yl]-(2-methyl-1H-indol-5-yl)-amine
The title compound was prepared from 2-methyl-5-aminoindole and 7-chloro-2-(2-ethoxy-thiazol-5-yl)-thieno[3,2-b]pyridine by the procedure analogous to example 148(c) above. 1H NMR (400 MHz, CD3OD) δ10.95 (s, 1H), 8.62 (s, 1H), 8.23 (d, 1H), 7.52 (s, 1H), 7.45 (s, 1H), 7.33 (m, 2H), 6.88 (d, 1H), 6.52 (d, 1H), 6.08 (s, 1H), 4.44 (q, 2H), 2.46 (s, 3H), 1.35 (t, 3H); RP18-HPLC RT: 5.83 minutes; API MS: 407 (M+1).

reactant | 2-methyl-5-aminoindole | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | 7-chloro-2-(2-ethoxy-thiazol-5-yl)-thieno[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(S2)C2=CN=C(S2)OCC | C12H9ClN2OS2
product | [2-(2-Ethoxy-thiazol-5-yl)-thieno[3,2-b]pyridin-7-yl]-(2-methyl-1H-indol-5-yl)-amine | C(C)OC=1SC(=CN1)C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C21H18N4OS2
